US06342644B1
A 100 ml capacity autoclave was charged with 3.04 g (20 mmol) of pulegone, 19.1 mg (0.02 mmol) of RuCl2(PPh3)3, 0.2 M 1,3-diaminopropane 2-propanol solution (0.2 ml), 0.2 M potassium hydroxide 2-propanol solution (1.0 ml) and 2-propanol (14 ml), and the mixture was stirred at 25° C. for 3 hours under a hydrogen pressure of 2 MPa. After completion of the reaction, hydrogen was purged, the reaction solution was concentrated and then distillation was carried out under a reduced pressure to obtain 2.61 g of pulegol. The yield was 85%.

reactant | pulegone | 20 mmol, 3.04 g | C[C@@H]1CCC(=C(C)C)C(=O)C1 | C10H16O
reactant | 1,3-diaminopropane 2-propanol | 0.2 M, 0.2 ml | CC(C)O.NCCCN
reactant | potassium hydroxide 2-propanol | 0.2 M, 1.0 ml | CC(C)O.[OH-].[K+]
reactant | hydrogen | [H][H] | H2
solvent | 2-propanol | 14 ml | CC(C)O | C3H8O
product | pulegol | 2.61 g, yield was 85% | CC1CCC(=C(C)C)C(C1)O | C10H18O
